US07923573B2
After trimethyl orthoformate (106 ml, 0.972 mol) and camphorsulfonic acid (0.751 g, 3.24 mmol) were added to a solution of 3-tert-butyl-2-hydroxybenzaldehyde (28.8 g, 162 mmol) which was synthesized according to the method described in literature (Hofsløkken, N. U. et al., Acta Chem. Scand., 1999, vol. 53, pp. 258-262) in methanol (20 ml), the mixture was stirred at 50° C. for 6 hours. After the reaction mixture was poured into a 1% aqueous sodium hydrogencarbonate solution and the mixture was extracted with ethyl acetate (three times), the organic layer was successively washed with water (twice) and a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate. The residue obtained by concentrating the organic layer was dissolved in N,N-dimethylformamide (100 ml). After sodium hydride (55% oily, 7.77 g, 178 mmol) was added to the solution under ice-cooling and the mixture was stirred for 30 minutes, chloromethyl methyl ether (13.5 ml, 178 mmol) was added thereto and the mixture was stirred at room temperature for 2 hours. After the reaction mixture was poured into water and the mixture was extracted with ethyl acetate (twice), the organic layer was successively washed with 0.5N hydrochloric acid, a 5% aqueous sodium hydrogencarbonate solution, water and a saturated aqueous NaCl solution and dried with anhydrous sodium sulfate. The residue obtained by removing the solvent under reduced pressure was purified by silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=14/1-10/1) to give 1-tert-butyl-3-(dimethoxymethyl)-2-(methoxymethoxy)benzene (10.4 g, yield: 24%).

reactant | trimethyl orthoformate | 0.972 mol, 106 ml | C(OC)(OC)OC | C4H10O3
reactant | 3-tert-butyl-2-hydroxybenzaldehyde | 162 mmol, 28.8 g | C(C)(C)(C)C=1C(=C(C=O)C=CC1)O | C11H14O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | sodium hydride | 178 mmol, 7.77 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 178 mmol, 13.5 ml | COCCl | C2H5ClO
solvent | methanol | 20 ml | CO | CH4O
catalyst | camphorsulfonic acid | 3.24 mmol, 0.751 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | water | O | H2O
product | 1-tert-butyl-3-(dimethoxymethyl)-2-(methoxymethoxy)benzene | 10.4 g, yield: 24% | C(C)(C)(C)C1=C(C(=CC=C1)C(OC)OC)OCOC | C15H24O4
